US06225306B1
To a suspension of 10.7 g of (2S, 4R)-4-hydroxy-1-(2-nitrobenzoyl) proline methyl ester and 5.7 g of imidazole in 100 ml of N,N-dimethylformamide, there was added 6.6 g of tert-butyldimethylsilyl chloride at room temperature in a nitrogen gas atmosphere and the mixture was stirred at room temperature for 2.5 hours. The reaction solution was poured into ice water, followed by extraction with ethyl acetate three times, water washing of the organic phase, drying and concentration thereof under reduced pressure. The resulting residue was subjected to silica gel column chromatography, then eluted with a 1/1 ethyl acetate/hexane mixed solvent, followed by recrystallization from ethyl acetate-hexane to give 10.6 g (yield 71.6%) of (2S, 4R)-4-(tert-butyldimethylsilyloxy)-1-(2-nitrobenzoyl) proline methyl ester as colorless needles.

reactant | (2S, 4R)-4-hydroxy-1-(2-nitrobenzoyl) proline methyl ester | 10.7 g | COC([C@H]1N(C[C@@H](C1)O)C(C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C13H14N2O6
reactant | imidazole | 5.7 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 6.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (2S, 4R)-4-(tert-butyldimethylsilyloxy)-1-(2-nitrobenzoyl) proline methyl ester | 10.6 g, yield 71.6% | COC([C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C19H28N2O6Si
